US05236952
10.0 g of ethyl (3,4-dimethoxy-5-nitrobenzoyl)acetate are reacted with 4.0 g of phenylhydrazine in analogy to Example 53a. After recrystallization from methylene chloride/ethanol, there is obtained 3-(3,4-dimethoxy-5-nitrophenyl)-1-phenyl-2-pyrazolin-5-one in the form of yellow crystals of m.p. 190°-192°.

reactant | ethyl (3,4-dimethoxy-5-nitrobenzoyl)acetate | 10.0 g | COC=1C=C(C(=O)CC(=O)OCC)C=C(C1OC)[N+](=O)[O-] | C13H15NO7
reactant | phenylhydrazine | 4.0 g | C1(=CC=CC=C1)NN | C6H8N2
product | 3-(3,4-dimethoxy-5-nitrophenyl)-1-phenyl-2-pyrazolin-5-one | COC=1C=C(C=C(C1OC)[N+](=O)[O-])C1=NN(C(C1)=O)C1=CC=CC=C1 | C17H15N3O5
